US07416848B2
Transcription and Digoxigenin Labeling of Antisense and Sense Riboprobes
Transcription reactions were performed using the DIG RNA Labeling Kit (Roche Molecular Biochemicals, Indianapolis, Ind.). Transcription reactions consisted of 300 ng of purified PCR product, 10×Transcription Buffer (400 mM Tris-HCl pH 8.0; 60 mM MgCl2, 100 mM dithioerythritol, 20 mM spermidine, 100 mM NaCl, 1 unit/ml RNase inhibitor), DIG Labeling mix (10 mM each of ATP, CTP, GTP, and 6.5 mM UTP, 3.5 mM UTP-DIG; in Tris-HCl pH 7.5), T7 or T3 polymerase (20 units/μl) (Promega, Madison, Wis.), and molecular grade water. Reactions were carried out at 37° C. for 2 hours, stopped with 0.2 M EDTA, pH 8.0, ethanol precipitated, and resuspended in molecular grade water to a final concentration of approximately 1 μg/μl and stored at −20° C. until use.

reactant | MgCl2 | 60 mM | [Mg+2].[Cl-].[Cl-]
reactant | dithioerythritol | 100 mM | SC[C@H](O)[C@H](O)CS | C4H10O2S2
reactant | spermidine | 20 mM | NCCCCNCCCN | C7H19N3
reactant | NaCl | 100 mM | [Na+].[Cl-]
reactant | ATP | 10 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | GTP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(=O)NC(N)=NC12)O)O | C10H16N5O14P3
reactant | UTP | 6.5 mM | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OP(=O)(O)O)O)O | C9H15N2O15P3
reactant | UTP | 3.5 mM | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OP(=O)(O)O)O)O | C9H15N2O15P3
reactant | EDTA | 0.2 M | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | Tris-HCl | pH 7.5 | C(C(CO)(CO)N)O.Cl
reactant | Tris-HCl | 400 mM, pH 8.0 | C(C(CO)(CO)N)O.Cl
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | Digoxigenin | C[C@]12CC[C@@H](C[C@H]1CC[C@@H]3[C@@H]2C[C@H]([C@]4([C@@]3(CC[C@@H]4C5=CC(=O)OC5)O)C)O)O | C23H34O5
